US07078405B2
6-Chloro-8-(2,4-dichlorophenyl)-2-ethylimidazo[1,2-a]pyrazine-3-carboxylic acid methyl ester
5-Chloro-3-(2,4-dichlorophenyl)-2-pyrazineamine (1.1 g, 4.0 mmol) and methyl 2-chloro-3-oxopentanoate (5.7 mL) were mixed, and the mixture was heated under stirring at 170° C. 3 hours. After being allowed to cool, the reaction mixture was purified by silica gel column chromatography (n-hexane:ethyl acetate=20:1), and the resulting residue was washed with hexane to give the title compound (0.56 g) as pale yellow crystals.

reactant | 5-Chloro-3-(2,4-dichlorophenyl)-2-pyrazineamine | 4.0 mmol, 1.1 g | ClC=1N=C(C(=NC1)N)C1=C(C=C(C=C1)Cl)Cl | C10H6Cl3N3
reactant | methyl 2-chloro-3-oxopentanoate | 5.7 mL | ClC(C(=O)OC)C(CC)=O | C6H9ClO3
product | 6-Chloro-8-(2,4-dichlorophenyl)-2-ethylimidazo[1,2-a]pyrazine-3-carboxylic acid methyl ester | 0.56 g | COC(=O)C1=C(N=C2N1C=C(N=C2C2=C(C=C(C=C2)Cl)Cl)Cl)CC | C16H12Cl3N3O2
